US04833164
Ethyl 5-(1-hydroxy-2-naphthyl)-4-pentenoate, E and Z isomer
A mixture of potassium t-butoxide (2.10 g, 0.019 mole) and 4-carbethoxypropyl-triphenylphosphonium bromide (prepared according to the procedure of P. E. Sonnet, J. Org. Chem. 34, 1147 (1964); 8.40 g, 0.018 mole) in dry tetrahydrofuran (15 mL) was stirred at 0°. After 45 minutes, a solution of 1-methoxymethoxy-2-naphthaldehyde (2.00 g, 0.009 mole) in dry tetrahydrofuran (7.5 mL) was added over 10 minutes. The resulting mixture was stirred at 0° for 2 hours, then was poured into water. The crude material was isolated by extraction with ethyl acetate and chromatographed with 10% ether/petroleum ether, then was dissolved in absolute ethanol (200 mL), treated with 3 drops of sulfuric acid, and heated at reflux for 18 hours. After cooling, the solution was diluted with water and the crude product mixture isolated by extraction with ethyl acetate. This was chromatographed with 85:15 petroleum ether/ether to provide two different solids. The first one to elute was recrystallized (hexane) to provide the Z isomer of the title compound (0.43 g, 17%) as a pale yellow solid, mp 75°-77°. The second solid was recrystallized (hexane) to provide the E isomer (0.23 g, 9%) as a white solid, mp 63°-64°.

reactant | potassium t-butoxide | 0.019 mole, 2.10 g | CC(C)([O-])C.[K+]
reactant | 1-methoxymethoxy-2-naphthaldehyde | 0.009 mole, 2.00 g | COCOC1=C(C=CC2=CC=CC=C12)C=O | C13H12O3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
product | Ethyl 5-(1-hydroxy-2-naphthyl)-4-pentenoate | 0.43 g, 17% | OC1=C(C=CC2=CC=CC=C12)C=CCCC(=O)OCC | C17H18O3
